US03989694
1-carbethoxy-methyl-4-formylthiosemicarbazide (0.50 g., 2.44 mmol.) was dissolved in 5 ml. of ethanol and 5 ml. (2 equivalents) of aqueous potassium hydroxide solution was added. The reaction mixture was refluxed for 5 hours then cooled, acidified to pH 2.0 with 6N sulfuric acid and evaporated to dryness. The residue was extracted with acetone to give 4-carboxymethyl-1,2,4-triazole-3-thiol.

reactant | 1-carbethoxy-methyl-4-formylthiosemicarbazide | 2.44 mmol, 0.50 g | C(=O)(OCC)N(NC(=S)NC=O)C | C6H11N3O3S
reactant | potassium hydroxide | 2 equivalents | [OH-].[K+]
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | 4-carboxymethyl-1,2,4-triazole-3-thiol | C(=O)(O)CN1C(=NN=C1)S | C4H5N3O2S
